### PR TITLE
Add +specialize option to `bv_generalize`

### PR DESCRIPTION
**Pull request by ineol**
This allows to test with `bv_decide` whether a predicate is true in its generalize form with reasonably high confidence.

### CODE REVIEW

File: Blase/Blase/MultiWidth/Tactic.lean [hunk 1]
```diff
@@ -1202,17 +1227,31 @@ def evalBvGeneralize : Tactic := fun
...
 theorem test_bv_generalize (x y : BitVec 32) (zs : List (BitVec 44)) (z : BitVec 10) (h : 52 + 10 = 42) (heq : x = y) : 
     x.zeroExtend 10 = y.zeroExtend 10 + 0 := by
   bv_generalize
   bv_multi_width
 
+theorem test_bv_generalize_spec (x y : BitVec 32) (zs : List (BitVec 44)) (z : BitVec 10) (h : 52 + 10 = 42) (heq : x = y) : 
+    x.zeroExtend 10 = y.zeroExtend 10 + 0 := by
+  bv_generalize +specialize
+  bv_decide
+
```
Comment (bollu) [inline Blase/Blase/MultiWidth/Tactic.lean:1255]: Nice, thanks for the tets :D

File: Blase/Blase/MultiWidth/Tactic.lean [hunk 2]
```diff
@@ -1183,6 +1184,29 @@ def doBvGeneralize (g : MVarId) : GenM (Expr × MVarId) := do
...
+def specializeGoal (g : MVarId) (lengthCount : Nat) : TacticM Unit := do
+  let t ← g.getType
+  let newT ← forallTelescope t fun xs t => do
+    let mut t := t
+    let mut substs := FVarSubst.empty
+    for i in [0:lengthCount] do
+      let n := 2 * i + 1
+      substs := substs.insert xs[i]!.fvarId! (mkNatLit n)
+    let ys := xs.drop lengthCount
+    let newT ← mkForallFVars ys t (binderInfoForMVars := .default)
```
Comment (bollu) [inline Blase/Blase/MultiWidth/Tactic.lean:1198]: I don't really understand the invariants here: Does it assume that the `BitVec w` occur first, and is not interleaved with other `fvars`? What happens if I have `BitVec w, Int, BitVec w`?

**Review by bollu — COMMENTED** [review]
I left a comment about a corner case in the algorithm that I don't undertsand. @ineol if you believe that this corner case doesn't occur / I missed an invariant that prevents this, then LGTM!

File: Blase/Blase/MultiWidth/Tactic.lean (hunk 2 above)
Comment (ineol) [reply Blase/Blase/MultiWidth/Tactic.lean:1198]: Since the goal is generated by the tactic itself we know that the first `lengthCount` variables are the width variables
